US07115615B2
7-(2-homopiperidin-1-ylethoxy)-4-(2,3-methylenedioxyanilino)-6-methoxyquinazoline
A mixture of 7-(2-bromoethoxy)-4-(2,3-methylenedioxyanilino)-6-methoxyquinazoline (0.48 g) homopiperidine (0.322 ml), sodium iodide (0.002 g), DMF (5 ml) and acetonitrile (6 ml) was stirred and heated to 45° C. for 5 hours. The mixture was evaporated and the residue was partitioned between methylene chloride and water. The organic phase was washed with brine, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using a 19:1 mixture of methylene chloride and a saturated methanolic ammonia solution as eluent. The material so obtained was triturated under diethyl ether to give the title compound as a solid (0.4 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 1.65 (m, 4H), 1.9 (m, 4H), 3.35 (m, 2H), 3.55 (m, 2H), 3.7 (m, 2H), 4.0 (s, 3H), 4.6 (m, 2H), 6.1 (s, 2H), 7.0 (m, 3H), 7.45 (s, 1H), 8.15 (s, 1H), 8.9 (s, 1H); Mass Spectrum: M+H+ 437.

reactant | 7-(2-bromoethoxy)-4-(2,3-methylenedioxyanilino)-6-methoxyquinazoline | 0.322 ml, 0.48 g | BrCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1)OCO2)OC | C18H16BrN3O4
reactant | sodium iodide | 0.002 g | [I-].[Na+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 7-(2-homopiperidin-1-ylethoxy)-4-(2,3-methylenedioxyanilino)-6-methoxyquinazoline | 0.4 g | N1(CCCCCC1)CCOC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1)OCO2)OC | C24H28N4O4
